US07820704B2
The 2-bromo-1-[4-(trans-4-methyl-cyclohexyloxy)-phenyl]-ethanone (764 mg, 3.44 mmol), 3-(1-cyclopentyl-thioureido)-propionic acid tert-butyl ester (935 mg, 2.46 mmol), NMP (6 mL) were combined as indicated in general procedure B. The reaction was stirred at room temperature overnight. After an aqueous work up, the crude product was purified by silica gel chromatography (gradient, hexane→3% EtOAc-hexane) to afford 3-(cyclopentyl-{4-[4-(trans-4-methyl-cyclohexyloxy)-phenyl]-thiazol-2-yl}-amino)-propionic acid tert-butyl ester (1.05 g).

reactant | 2-bromo-1-[4-(trans-4-methyl-cyclohexyloxy)-phenyl]-ethanone | 3.44 mmol, 764 mg | BrCC(=O)C1=CC=C(C=C1)O[C@@H]1CC[C@H](CC1)C | C15H19BrO2
reactant | 3-(1-cyclopentyl-thioureido)-propionic acid tert-butyl ester | 2.46 mmol, 935 mg | C(C)(C)(C)OC(CCN(C(=S)N)C1CCCC1)=O | C13H24N2O2S
solvent | NMP | 6 mL | CN1CCCC1=O | C5H9NO
product | 3-(cyclopentyl-{4-[4-(trans-4-methyl-cyclohexyloxy)-phenyl]-thiazol-2-yl}-amino)-propionic acid tert-butyl ester | 1.05 g | C(C)(C)(C)OC(CCN(C=1SC=C(N1)C1=CC=C(C=C1)O[C@@H]1CC[C@H](CC1)C)C1CCCC1)=O | C28H40N2O3S
